US08664255B2
Sample Protocol for Suzuki-Miyaura Couplings—Preparation of 1-(5-(4-hydroxyphenyl)thiophen-2-yl)ethanone
A flame-dried test tube under N2 was charged with 1-(5-bromothiophen-2-yl)ethanone (250 mg, 1.22 mmol), p-hydroxyphenylboronic acid (1.2 equiv, 1.40 mmol, 202 mg), and 2.0 mL 1,4-dioxane. To the yellow solution, tetrakistriphenylphosphinepalladium(0) (6 mol %, 0.0731 mmol, 84 mg) and 2 M aqueous sodium carbonate (2.0 equiv, 2.44 mmol, 2.0 mL) were added. The yellow mixture was heated to 100° C. for 18 h. The resulting yellow-brown mixture was cooled to rt, adsorbed onto Celite in vacuo, and purified by silica gel chromatography to afford the desired product as an analytically pure yellow solid (51 mg, 19% yield).

reactant | 1-(5-bromothiophen-2-yl)ethanone | 1.22 mmol, 250 mg | BrC1=CC=C(S1)C(C)=O | C6H5BrOS
reactant | p-hydroxyphenylboronic acid | 1.40 mmol, 202 mg, 1.2 equiv | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | sodium carbonate | 2.44 mmol, 2 M, 2.0 mL, 2.0 equiv | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakistriphenylphosphinepalladium(0) | 0.0731 mmol, 84 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 1-(5-(4-hydroxyphenyl)thiophen-2-yl)ethanone | OC1=CC=C(C=C1)C1=CC=C(S1)C(C)=O | C12H10O2S
